US05099067
To a solution of 3β-acetoxy-6β-nitro-5α-cholestane (0.474 g, 0.001 mole) in THF (5 mL) and methanol (5 mL) was added 10% palladium on carbon (50 mg) followed by ammonium formate (0.315 g, 5 equivalents). The resulting mixture was stirred at room temperature for 50 minutes then diluted with Et2O, filtered and evaporated in vacuo. Flash column chromatography (SiO2, 4:1, hexane:Et2O) gave 3β-acetoxy-6β-amino-5α-cholestane (0.366 g, 82%).

reactant | 3β-acetoxy-6β-nitro-5α-cholestane | 0.001 mole, 0.474 g | C(C)(=O)O[C@@H]1C[C@@H]2[C@@H](C[C@H]3[C@@H]4CC[C@H]([C@@H](CCCC(C)C)C)[C@]4(CC[C@@H]3[C@]2(CC1)C)C)[N+](=O)[O-] | C29H49NO4
reactant | ammonium formate | 0.315 g, 5 equivalents | C(=O)[O-].[NH4+]
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | methanol | 5 mL | CO | CH4O
catalyst | palladium on carbon | 50 mg | [Pd] | Pd
solvent | Et2O | CCOCC | C4H10O
product | 3β-acetoxy-6β-amino-5α-cholestane | 0.366 g, 82% | C(C)(=O)O[C@@H]1C[C@@H]2[C@@H](C[C@H]3[C@@H]4CC[C@H]([C@@H](CCCC(C)C)C)[C@]4(CC[C@@H]3[C@]2(CC1)C)C)N | C29H51NO2
